US05539122
(2S,3S,5S)-5-(N-(N-((N-(Amino)-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane Hydrochloride
To 60 mg (0.073 mmol) of (2S,3S,5S)-5-(N-(N-((N-(tert-butyloxycarbonyl-amino)-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane was added 5 ml of 4M HCl in dioxane. The resulting solution was stirred at ambient temperature for 2 h. After concentration of the solution in vacuo, the residue was taken up in 0.5 ml of methanol, added to 20 ml of diethyl ether, and filtered to provide 40 mg (77%) of the desired compound (Rf 0.60, 10% methanol in chloroform). Mass spectrum: (M+H)+ =722.

reactant | (2S,3S,5S)-5-(N-(N-((N-(tert-butyloxycarbonyl-amino)-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | 0.073 mmol, 60 mg | C(C)(C)(C)OC(=O)NN(CC=1N=C(SC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O)CC1=CC=CC=C1 | C41H55N7O7S2
reactant | HCl | 4M, 5 ml | Cl | ClH
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | 0.5 ml | CO | CH4O
product | (2S,3S,5S)-5-(N-(N-((N-(Amino)-N-((2-isopropyl-4-thiazolyl)methyl)amino)carbonyl)valinyl)amino)-2-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane Hydrochloride | 40 mg | Cl.NN(CC=1N=C(SC1)C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@H](C[C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O)CC1=CC=CC=C1 | InChI=1S/C36H47N7O5S2.ClH/c1-23(2)32(42-35(46)43(37)19-28-21-49-34(40-28)24(3)4)33(45)39-27(15-25-11-7-5-8-12-25)17-31(44)30(16-26-13-9-6-10-14-26)41-36(47)48-20-29-18-38-22-50-29;/h5-14,18,21-24,27,30-32,44H,15-17,19-20,37H2,1-4H3,(H,39,45)(H,41,47)(H,42,46);1H/t27-,30-,31-,32-;/m0./s1
